US08497264B2
In a 100-mL flask, the crude (S)-5-amino-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol (0.185 g, 0.484 mmol) was suspended in THF (12 mL). Boc2O (0.132 g, 0.605 mmol) was added, followed by TEA (0.088 mL, 0.629 mmol). The mixture was stirred at rt overnight. The mixture was concentrated to afford (5)-tert-butyl 2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-7′-hydroxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate which was used in the next step without further purification.

reactant | (S)-5-amino-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol | 0.484 mmol, 0.185 g | NC1=N[C@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)C=2CCOCC2)F)O)COC1 | C21H19FN2O4
reactant | Boc2O | 0.605 mmol, 0.132 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | (5)-tert-butyl 2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-7′-hydroxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate | O1CCC(=CC1)C1=CC=2[C@@]3(C4=CC(=CC=C4OC2C(=C1)F)O)COCC(=N3)NC(OC(C)(C)C)=O | C26H27FN2O6
